US07173030B2
tert-Butyl [3-(2-amino-1-methylethyl)-1,2,4-thiadiazol-5-yl]carbamate (0.27 mmol) was dissolved in DCM (5 mL) and triethylamine (1.4 eq) was added followed by n-butyric acid chloride (1.1 eq). The reaction mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure. Purification, using preparative LCMS (30–70% MeCN over 10 min followed by 100% MeCN for 5 min), afforded tert-butyl [3-(2-butyrylamino-1-methyl-ethyl)-[1,2,4]thiadiazol-5-yl]-carbamate. Deprotection was carried out in DCM (1 mL) and TFA (1 mL) was added. The reaction mixture was stirred for 1.5 h at room temperature. The solvent was removed under reduced pressure affording the crude product which was converted to the sulfonamide using method C without any further purifications.

reactant | tert-Butyl [3-(2-amino-1-methylethyl)-1,2,4-thiadiazol-5-yl]carbamate | 0.27 mmol | NCC(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C10H18N4O2S
reactant | triethylamine | 1.4 eq | C(C)N(CC)CC | C6H15N
reactant | n-butyric acid chloride | 1.1 eq | C(CCC)(=O)Cl | C4H7ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [3-(2-butyrylamino-1-methyl-ethyl)-[1,2,4]thiadiazol-5-yl]-carbamate | C(CCC)(=O)NCC(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C14H24N4O3S
